US07465726B2
4-{4-[3-(1H-Imidazol-2-yl)-phenylamino]-7H-pyrrolo[2,3-d]pyrimidin-6-yl}-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester
Into a sealed tube were added 4-(4-chloro-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (368 mg, 1.0 mmol), 3-(1H-imidazol-2-yl)-phenylamine (210 mg, 1.32 mmol), trifluoroacetic acid (847 μL, 11.0 mmol) and 1-butanol (10 mL). The above mixture was heated at 80° C. for 24 h. After that time, the mixture was concentrated in vacuo, and the residue was dissolved in DMSO for submission for MS-directed purification to obtain brown oil, which was purified again to give the title compound. 1H NMR (CD3OD, 400 MHz): δ=1.52 (s, 9H), 2.58 (brs, 2H), 3.68 (brs, 2H), 4.14 (brs, 2H), 6.30 (brs, 1H), 6.68 (s, 1H), 7.16 (s, 2H), 7,45 (t, 1H, J=8.0 Hz), 7.57-7.60 (m, 1H), 7.76-7.79 (m, 1H), 8.21 (t, 1H, J=1.6 Hz), 9.26 (s, 1H). MS (ES+): m/z 458.06 (100) [MH+]. HPLC: tR=2.17 min (ZQ2000, polar—5 min).

reactant | 4-(4-chloro-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 1.0 mmol, 368 mg | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC2=C(N=CN=C2Cl)N1 | C16H19ClN4O2
reactant | 3-(1H-imidazol-2-yl)-phenylamine | 1.32 mmol, 210 mg | N1C(=NC=C1)C=1C=C(C=CC1)N | C9H9N3
reactant | trifluoroacetic acid | 11.0 mmol, 847 μL | FC(C(=O)O)(F)F | C2HF3O2
solvent | 1-butanol | 10 mL | C(CCC)O | C4H10O
product | 4-{4-[3-(1H-Imidazol-2-yl)-phenylamino]-7H-pyrrolo[2,3-d]pyrimidin-6-yl}-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC2=C(N=CN=C2NC2=CC(=CC=C2)C=2NC=CN2)N1 | C25H27N7O2
